US05834506
Dimethyl-sulfamic acid 5-tert-butyl-4-mercapto-2-methyl-phenyl ester
To a round bottom flask equipped with a magnetic stirrer and condenser were added 1.1 g (3.3 mmol) of dimethyl-sulfamic acid 5-tert-butyl-2-methyl-4-thiocyanato-phenyl ester (prepared in Example SSS), dithiothreitol (1.29 g, 8.35 mmol), EtOH (40 mL), and 0.02M KH2PO4 buffer solution (5 mL), respectively. The reaction was refluxed overnight. The mixture was then quenched with H2O (250 mL) and extracted with a 1:1 mixture of hexanes:Et2O. The organic layer was again washed with H2O and brine, dried (MgSO4) and concentrated. The residue was dried under high vacuum to yield the title compound. 1H NMR (CDCl3) δ 1.45 (s, 9 H), 2.25 (s, 3 H), 3.02 (s, 6 H), 3.57 (s, 1 H), 7.01 (s, 1 H), 7.28 (s, 1 H).

reactant | dimethyl-sulfamic acid 5-tert-butyl-2-methyl-4-thiocyanato-phenyl ester | 3.3 mmol, 1.1 g | C(C)(C)(C)C=1C(=CC(=C(C1)OS(N(C)C)(=O)=O)C)SC#N | C14H20N2O3S2
reactant | dithiothreitol | 8.35 mmol, 1.29 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | KH2PO4 | 0.02M, 5 mL | OP(=O)(O)[O-].[K+]
solvent | EtOH | 40 mL | CCO | C2H6O
product | Dimethyl-sulfamic acid 5-tert-butyl-4-mercapto-2-methyl-phenyl ester | C(C)(C)(C)C=1C(=CC(=C(C1)OS(N(C)C)(=O)=O)C)S | C13H21NO3S2
